US08211908B2
A solution of 2.0 g of 7-methyl-1,8-naphthyridin-2(1H)-one in 150 mL of ethanol, 1.0 g of 5% palladium-carbon was added, and the mixture was stirred at 40 to 50° C. for 17 hours under a hydrogen atmosphere. The reaction mixture was cooled to room temperature, the insoluble substance was filtered off, and the filtration residue was washed with methanol. The solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=1:1 to obtain 0.92 g of 7-methyl-3,4-dihydro-1,8-naphthyridin-2(1H)-one as a white solid.

reactant | 7-methyl-1,8-naphthyridin-2(1H)-one | 2.0 g | CC1=CC=C2C=CC(NC2=N1)=O | C9H8N2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | 7-methyl-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 0.92 g | CC1=CC=C2CCC(NC2=N1)=O | C9H10N2O
